US04695574
4-(7-Trifluoromethyl-4-quinolinylamino)-N-[(1-ethyl-2-pyrrolidinyl) methyl]benzenesulphonamide
4-(7-Trifluoromethyl-4-quinolinylamino)benzenesulphonyl chloride hydrochloride (4.3 g, 0.01 mol) was added portionwise to a well stirred mixture of aqueous sodium carbonate (12.3 g in 70 ml of water) and 2-aminomethyl-1-ethylpyrrolidine (1.3 g, 0.01 mol) in chloroform (70 ml) at about 10° C. The ice bath used for cooling was removed and, after 11/2 hours, the mixture was filtered. The solid was washed with water and then air-dried. Recrystallisation from ethanol-water, followed by drying, gave the title compound (1.35 g), melting point 194°-5° C.

reactant | 4-(7-Trifluoromethyl-4-quinolinylamino)benzenesulphonyl chloride hydrochloride | 0.01 mol, 4.3 g | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F
reactant | sodium carbonate | 70 ml, 12.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.01 mol, 1.3 g | NCC1N(CCC1)CC | C7H16N2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(7-Trifluoromethyl-4-quinolinylamino)-N-[(1-ethyl-2-pyrrolidinyl) methyl]benzenesulphonamide | 1.35 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NCC1N(CCC1)CC)(F)F | C23H25F3N4O2S
